US04182897
Phosphorus pentachloride (22 g) was added to 19.3 g of p-nitrocinnamic acid suspended in 300 ml of ethyl acetate, and the resulting suspension was stirred at room temperature for 1 hour. After the reaction, the solvent was removed by distillation under reduced pressure. The resulting precipitates of p-nitrocinnamoyl chloride were dissolved in 300 ml of ethyl acetate and 10.8 g of p-methylphenol was added to the resulting solution, after which 12 g of triethylamine was slowly added thereto at room temperature with constant stirring. After the mixture was subjected to reaction at room temperature for 1 hour, the reaction mixture was washed with 10% HCl, 10% NaOH and water in this order and dried on anhydrous magnesium sulfate. Then the solvent was removed by distillation under reduced pressure, whereby p-methylphenyl p-nitrocinnamate was obtained. Yield: 26.8 g (95%); melting point: 168°-170° C.; IR (cm-1): 1720, 1510, 1345. HCl).

reactant | Phosphorus pentachloride | 22 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-nitrocinnamic acid | 19.3 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | p-methylphenyl p-nitrocinnamate | [N+](=O)([O-])C1=CC=C(C=CC(=O)OC2=CC=C(C=C2)C)C=C1 | C16H13NO4
